US08097617B2
Tetrahydro-pyran-4-carboxylic acid [7-aminomethyl-6-(2,4-dichloro-phenyl)-imidazo[1,2-a]pyridin-3-yl]-amide
A mixture of the previously obtained 6-(2,4-dichloro-phenyl)-3-nitro-imidazo[1,2-a]pyridine-7-carbonitrile and Tin(II) chloride dihydrate (3.61 g, 15.7 mmol) in absolute EtOH (10 mL) was refluxed for 10 min, then cooled to RT and concentrated under vacuum. The residue was suspended into a 2M NaOH solution in water (100 mL) and extracted with DCM (4×50 mL). The combined organic fractions were washed with brine, dried over Na2SO4, filtered, and evaporated to dryness. The remaining residue was purified by Combi-Flash Companion™ (Isco Inc.) column chromatography (SiO2; gradient elution, DCM/MeOH—NH3 99:1→95:5) to yield the title compound (517 mg, 1.71 mmol, 28% for 2 steps). HPLC: AtRet=1.34; TLC: RF 0.47 (DCM/7N NH3 in MeOH 95:5).

reactant | 6-(2,4-dichloro-phenyl)-3-nitro-imidazo[1,2-a]pyridine-7-carbonitrile | ClC1=C(C=CC(=C1)Cl)C=1C(=CC=2N(C1)C(=CN2)[N+](=O)[O-])C#N | C14H6Cl2N4O2
reactant | Tin(II) chloride dihydrate | 15.7 mmol, 3.61 g | O.O.[Sn](Cl)Cl
solvent | EtOH | 10 mL | CCO | C2H6O
product | Tetrahydro-pyran-4-carboxylic acid [7-aminomethyl-6-(2,4-dichloro-phenyl)-imidazo[1,2-a]pyridin-3-yl]-amide | 1.71 mmol, 517 mg, 28% | NCC1=CC=2N(C=C1C1=C(C=C(C=C1)Cl)Cl)C(=CN2)NC(=O)C2CCOCC2 | C20H20Cl2N4O2
